US05087775
30 g (0.132 mol) of 2-chloro-3,3,4,4-tetrafluorocyclobutenyl isopropyl ether and 20 g (0.145 mol) of potassium carbonate are hydrogenated over 10 g of palladium-carbon in 100 ml of water at 120° C. for 5 hours. The catalyst is filtered off and the filtrate is extracted with dichloromethane. After drying, 2,2,3,3-tetrafluorocyclobutyl isopropyl ether is obtained with a yield of 55%.

reactant | 2-chloro-3,3,4,4-tetrafluorocyclobutenyl isopropyl ether | 0.132 mol, 30 g | C(C)(C)OC1=C(C(C1(F)F)(F)F)Cl | C7H7ClF4O
reactant | potassium carbonate | 0.145 mol, 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
catalyst | palladium-carbon | 10 g | [C].[Pd]
product | 2,2,3,3-tetrafluorocyclobutyl isopropyl ether | yield of 55% | C(C)(C)OC1C(C(C1)(F)F)(F)F | C7H10F4O
